data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3756,4296,[CH3:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[O+:12][C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:12][C:9]1([C:7]([CH3:6])=[O:8])[C:10]#[N:11],water,298.15,62.21085566337887,34.38461334313906
1436,1578,[Br:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22]([CH3:23])=[O:24]>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)=[N:14][C:13]1([C:11]([CH3:10])=[O:12])[C:22]([CH3:23])=[O:24],water,298.15,22.45905279949736,-49.55522109156957
2578,2859,[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25][CH2:26][CH2:27]1.[CH3:28][C:29]#[N+:30][C-:31]([C:32]#[N:33])[C:34](=[O:35])[NH:36][CH3:37]>>[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[CH2:24][CH2:25][CH2:26][CH2:27]1)[C:29]([CH3:28])=[N:30][C:31]2([C:32]#[N:33])[C:34](=[O:35])[NH:36][CH3:37],water,298.15,16.999080105467744,-43.36932862150194
1170,1272,[CH3:11][NH:12][C:13](=[O:14])[N:15]=[O+:16][N-:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[N:15]([C:13]([NH:12][CH3:11])=[O:14])[O:16][N:17]3[C:18](=[O:19])[O:20][CH3:21],water,298.15,13.840888224159263,-77.6977060596864
416,454,[CH3:1][O:2][C:3]([CH3:4])=[C:5]([CH3:6])[CH3:7].[CH3:8][O:9][C:10](=[O:11])[c-:12]1[nH+:13][c:14]([C:15]([CH3:16])=[O:17])[o:18][c:19]1=[O:20]>>[CH3:1][O:2][C:3]1([CH3:4])[C:5]([CH3:6])([CH3:7])[C:14]2([C:15]([CH3:16])=[O:17])[NH:13][C:12]1([C:10]([O:9][CH3:8])=[O:11])[C:19](=[O:20])[O:18]2,water,298.15,24.286105100419583,6.56906087852698
1766,1957,[CH3:17][O:18][C:19](=[O:20])[N:21]=[NH+:22][N-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[F:1][C:2]1([F:3])[C:4]#[C:5][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH2:14][CH2:15][CH2:16]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([CH:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH2:13][CH2:14][CH2:15][CH2:16]1)[N:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:22][N:21]2[C:19]([O:18][CH3:17])=[O:20],water,298.15,27.77871972286644,-26.61103444489064
4929,5614,[CH3:6][NH:7][C:8](=[O:9])[C:10](=[O+:11][C-:12]([C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[O:11][C:12]1([C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20],water,298.15,49.06253734340503,18.260392913876988
1446,1588,[CH3:12][NH:13][C:14](=[O:15])[N-:16][NH+:17]=[C:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([F:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:18]([C:19](=[O:20])[NH:21][CH3:22])([C:23](=[O:24])[NH:25][CH3:26])[NH:17][N:16]2[C:14]([NH:13][CH3:12])=[O:15],water,298.15,28.354422208916183,-21.147082480993927
517,564,[CH3:10][CH:11]=[NH+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21].[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([CH3:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:13]([C:14](=[O:15])[O:16][CH3:17])([C:18](=[O:19])[O:20][CH3:21])[NH:12][CH:11]2[CH3:10],water,298.15,17.676782790372776,-18.0996517939834
857,927,[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])=[N:16][C:17]1([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,14.196803652175472,-59.02812099901126
4571,5216,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[N:17]([CH3:18])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,24.625915756134145,-10.712131934397783
3805,4355,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])=[N:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,21.12635537147708,-35.53324541422684
